US05151497
L-Histidyl-L-prolinamide dihydrobromide (4.33 g) was dissolved in DMF (15 ml), and triethylamine (2.92 ml) was added to the solution under cooling at <10° C. After the mixture was stirred under ice-cooling for 10 minutes, the resulting precipitation was filtered off to give a DMF solution of L-histidyl-L-prolinamide, which was immediately used in the following synthetic reaction.

reactant | L-Histidyl-L-prolinamide dihydrobromide | 4.33 g | Br.Br.N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1
reactant | triethylamine | 2.92 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | L-histidyl-L-prolinamide | N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)N)CCC1 | C11H17N5O2
